US07875600B2
2-Dimethylamino-6(5-methylfuran-2-yl)pyrimidine-4-carboxylic acid lithium salt
A mixture of 2-dimethylamino-6-(5-methylfuran-2-yl)pyrimidine-4-carbonitrile (0.68 g, 2.98 mmol) in 6-M HCl (40 mL) and THF (10 mL) was refluxed for 6 h, cooled, concentrated in vacuo and the residue subjected to ion-exchange column chromatography (Isolute® Flash SCX-2; DCM; MeOH then 1-M NH3:MeOH). The resulting mixture of methyl ester and carboxylic acid (0.42 g) was treated with MeOH (15 mL), water (15 mL) and LiOH (72 mg, 1.81 mmol), stirred at room temperature for 1 h and concentrated in vacuo to give the title compound (0.48 g, 98%) as a white solid: NMR δH (400 MHz, CD3OD) 2.38 (3H, s), 3.23 (6H, s), 6.19-6.20 (1H, m), 7.08-7.09 (1H, m) and 7.31 (1H, s); M/Z 248 (M+H)+

reactant | 2-dimethylamino-6-(5-methylfuran-2-yl)pyrimidine-4-carbonitrile | 2.98 mmol, 0.68 g | CN(C1=NC(=CC(=N1)C#N)C=1OC(=CC1)C)C | C12H12N4O
reactant | HCl | 40 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | LiOH | 1.81 mmol, 72 mg | [Li+].[OH-]
solvent | water | 15 mL | O | H2O
solvent | MeOH | 15 mL | CO | CH4O
product | 2-Dimethylamino-6(5-methylfuran-2-yl)pyrimidine-4-carboxylic acid lithium salt | 0.48 g, 98% | [Li+].CN(C1=NC(=CC(=N1)C(=O)[O-])C=1OC(=CC1)C)C | InChI=1S/C12H13N3O3.Li/c1-7-4-5-10(18-7)8-6-9(11(16)17)14-12(13-8)15(2)3;/h4-6H,1-3H3,(H,16,17);/q;+1/p-1
